US07244725B2
A. N-(1S,2R)-(1-(3,5-Difluoro-benzyl)-2-hydroxy-3-{1-[3-(4-methyl-thiophen-2-yl)-phenyl]-cyclohexylamino}-propyl)-acetamide
Palladium acetate (Pd(OAc)2) (0.82 mgs, 10 mol. Wt. %) and Biphenyl-2-yl-di-tert-butyl-phosphane (2.16 mgs, 20 mol. Wt. %) was added to the reaction vessel (Vessel 1). N-(1S,2R)-[3-[1-(3-Bromo-phenyl)-cyclohexylamino]-1-(3,5-difluoro-benzyl)-2-hydroxy-propyl]-acetamide (0.09075 mM) was placed in a separate reaction vessel (Vessel 2) and dissolved in 200 mL DME. 4-Methylthiophene-2-boronic acid and Potassium Fluoride (KF) (3 eq., 6.33 mgs) were added to a separate reaction vessel and dissolved in 200 μL DME (Vessel 3). Solvents in Vessels 2 and 3 were added to Vessel 1 under nitrogen. Vessel 1 was stirred over night at room temperature. Reaction was then concentrated down by vacuum. Crude material purified by Prep-HPLC. Product fractions collected and concentrated down by vacuum. MS (ESI+) for C29H34F2N2O2S m/z 513.0 (M+H)+

reactant | Biphenyl-2-yl-di-tert-butyl-phosphane | 20 mol, 2.16 mgs | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | N-(1S,2R)-[3-[1-(3-Bromo-phenyl)-cyclohexylamino]-1-(3,5-difluoro-benzyl)-2-hydroxy-propyl]-acetamide | 0.09075 mM | BrC=1C=C(C=CC1)C1(CCCCC1)NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C24H29BrF2N2O2
reactant | 4-Methylthiophene-2-boronic acid | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | Potassium Fluoride | 6.33 mgs, 3 eq. | [F-].[K+]
solvent | DME | 200 mL | COCCOC | C4H10O2
solvent | DME | 200 μL | COCCOC | C4H10O2
catalyst | Palladium acetate | 10 mol, 0.82 mgs | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(1S,2R)-(1-(3,5-Difluoro-benzyl)-2-hydroxy-3-{1-[3-(4-methyl-thiophen-2-yl)-phenyl]-cyclohexylamino}-propyl)-acetamide | FC=1C=C(C[C@@H]([C@@H](CNC2(CCCCC2)C2=CC(=CC=C2)C=2SC=C(C2)C)O)NC(C)=O)C=C(C1)F | C29H34F2N2O2S
